US03931407
a. 2-(p-Nitrophenacyl)cyclohexanone ##SPC97##
(0.35 mole) of 1-pyrrolidino-1-cyclohexene and 85.0 g. (0.35 mole) of p-nitrophenacyl bromide by the method described in Example 39a gave 81.3 g. (89%) of crystals, m.p. 61°-63° (from ethanol).

reactant | 1-pyrrolidino-1-cyclohexene | 0.35 mole | N1(CCCC1)C1=CCCCC1 | C10H17N
reactant | p-nitrophenacyl bromide | 0.35 mole | [N+](=O)([O-])C1=CC=C(C(CBr)=O)C=C1 | C8H6BrNO3
reactant | ethanol | C(C)O | C2H6O
product | 2-(p-Nitrophenacyl)cyclohexanone | [N+](=O)([O-])C1=CC=C(C(CC2C(CCCC2)=O)=O)C=C1 | C14H15NO4
